US04120856
3-Fluoro-1,3-dihydro-1-methyl-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one
To a well stirred solution of 3.0 g (0.01 mol) of 3-fluoro-1,3-dihydro-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one, 75 ml of dry THF and 25.56 g (0.18 mol, 11.2 ml) of methyl iodide was added a suspension of 0.48 g (0.02 mol) of sodium hydride in 20 ml of THF. There was an immediate evolution of hydrogen. The contents of the flask were stirred under a nitrogen atmosphere for exactly 2 hours. The product mixture was poured into approximately 100 ml of water and methylene chloride added to extract the product. The organic layer was separated and washed twice with ca. 50 ml portion of fresh water, and then allowed to dry over magnesium sulfate. Evaporation of the solvent under reduced pressure gave 1.38 g of a yellow crystalline material. Recrystallization from hot heptane gave 0.97 g of an off-white powder identified as 3-fluoro-1-(N-methyl)-7-chloro-5-phenyl-1,4-benzodiazepin-2-one: 1H nmr (DMSO-d6): δ 7.2-7.72 ppm (m, 8H), δ 5.8 ppm (d, 1H, 56 Hz), δ 3.37 (m, 3H, N-methyl); 19F nmr (DMSO-d6) δ -160.14 ppm (d, J = 56 Hz).

reactant | 3-fluoro-1,3-dihydro-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.01 mol, 3.0 g | FC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)=O | C15H10ClFN2O
reactant | methyl iodide | 0.18 mol, 11.2 ml, 25.56 g | CI | CH3I
reactant | sodium hydride | 0.02 mol, 0.48 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | approximately 100 ml | O | H2O
product | 3-Fluoro-1,3-dihydro-1-methyl-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one | 1.38 g | FC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)C)=O | C16H12ClFN2O
